US07776857B2
A stainless steel bomb was charged with 2,3-dimethoxy-5-nitropyridine (430 mg, 2335 μmol), 10% Pd/C (124 mg, 1168 μmol) and 4.7 mL EtOAc. The vessel was sealed and was purged with hydrogen once, before filling with hydrogen at a pressure of 2 attn. The reaction mixture was heated at 50° C. for 3 h. Upon cooling, the mixture was filtered through a pad of Celite, rinsing with EtOAc. The filtrate was concentrated and passed through a silica plug using 5% MeOH/DCM. The filtrate was concentrated to provide 5,6-dimethoxypyridin-3-amine as a peach colored oil that crystallized upon standing. GC/MS confirmed the correct mass to be [M+H]=155.

reactant | 2,3-dimethoxy-5-nitropyridine | 2335 μmol, 430 mg | COC1=NC=C(C=C1OC)[N+](=O)[O-] | C7H8N2O4
catalyst | Pd/C | 1168 μmol, 124 mg | [Pd] | Pd
solvent | EtOAc | 4.7 mL | CCOC(=O)C | C4H8O2
product | 5,6-dimethoxypyridin-3-amine | COC=1C=C(C=NC1OC)N | C7H10N2O2
